US05955476
A solution of tert-butyl 4-(1,3-dioxoisoindolin-2-yl)-4-fluoro-4-ethoxycarbonylbutanoate (1.1 g, 3 mmol) and trifluoroacetic acid (5 mL) in methylene chloride (5 mL) is stirred for 18 hours and then with methylene chloride (50 mL) for 10 min. The organic layer is washed with water and brine (30 mL each), and dried over sodium sulfate. The solvent is removed in vacuo to yield 4-(1,3-dioxoisoindolin-2-yl)-4-(ethoxycarbonyl)-4-fluorobutanoic acid which can be purified by chromatography or used in the next step without further purification.

reactant | tert-butyl 4-(1,3-dioxoisoindolin-2-yl)-4-fluoro-4-ethoxycarbonylbutanoate | 3 mmol, 1.1 g | O=C1N(C(C2=CC=CC=C12)=O)C(CCC(=O)OC(C)(C)C)(C(=O)OCC)F | C19H22FNO6
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(1,3-dioxoisoindolin-2-yl)-4-(ethoxycarbonyl)-4-fluorobutanoic acid | O=C1N(C(C2=CC=CC=C12)=O)C(CCC(=O)O)(F)C(=O)OCC | C15H14FNO6
